US09193716B2
Step B: 5-(3,4-Diethoxyphenyl)-3-(2-methylbenzofuran-5-yl)-1,2,4-oxadiazole
The product Step A was converted to N-hydroxy-2-methylbenzofuran-5-carboximidamide by method described for Example 36, Step A. When N-hydroxy-2-methylbenzofuran-5-carboximidamide and 3,4-diethoxybenzoic acid were substituted for N-hydroxy-3-iodo-4-isopropoxybenzimidamide and 3-chloro-4-propoxybenzoic acid, respectively, in Example 36, Step B, the similar procedure afforded the title compound in 6% yield, as colourless solid. 1H-NMR (CDCl3) 8.28 (bs, 1H); 8.00 (dd, 1H, J=8.55, 1.68 Hz); 7.8 (dd, 1H, J=8.4, 1.98 Hz); 7.68 (d, 1H, J=1.92 Hz); 7.47 (d, 1H, J=8.58 Hz); 6.97 (d, 1H, J=8.46 Hz); 6.45 (s, 1H); 4.23-4.16 (m, 4H); 2.48 (3H); 1.52-1.47 (m, 6H).

reactant | N-hydroxy-2-methylbenzofuran-5-carboximidamide | ONC(=N)C=1C=CC2=C(C=C(O2)C)C1 | C10H10N2O2
reactant | 3,4-diethoxybenzoic acid | C(C)OC=1C=C(C(=O)O)C=CC1OCC | C11H14O4
reactant | N-hydroxy-3-iodo-4-isopropoxybenzimidamide | ONC(C1=CC(=C(C=C1)OC(C)C)I)=N | C10H13IN2O2
reactant | 3-chloro-4-propoxybenzoic acid | ClC=1C=C(C(=O)O)C=CC1OCCC | C10H11ClO3
product | 5-(3,4-Diethoxyphenyl)-3-(2-methylbenzofuran-5-yl)-1,2,4-oxadiazole | 6% yield | C(C)OC=1C=C(C=CC1OCC)C1=NC(=NO1)C=1C=CC2=C(C=C(O2)C)C1 | C21H20N2O4
